US07569337B2
3-(6-Chloro-imidazo[1,2-a]pyridin-2-yl)-7-[4-(2-fluoro-ethyl)-piperazin-1-yl]-chromen-2-one
253 mg (1 mmol) 4-[4-(2-Fluoro-ethyl)-piperazin-1-yl]-2-hydroxy-benzaldehyde and 450 mg (2 eq.) (6-chloro-imidazo[1,2-a]pyridin-2-yl)-acetic acid methyl ester refluxed in 15 mL benzene and 7.5 mL acetonitrile in the presence of 0.395 mL (4 eq.) piperidine for 21 h. The reaction mixture is cooled to 0° C. and the precipitated material filtered, washed with diethyl ether and dried under high vacuum, yielding 100 mg (23%) desired product as a yellow solid. M.p.=265° C. (decomposition).

reactant | 4-[4-(2-Fluoro-ethyl)-piperazin-1-yl]-2-hydroxy-benzaldehyde | 1 mmol, 253 mg | FCCN1CCN(CC1)C1=CC(=C(C=O)C=C1)O | C13H17FN2O2
reactant | (6-chloro-imidazo[1,2-a]pyridin-2-yl)-acetic acid methyl ester | 450 mg, 2 eq. | COC(CC=1N=C2N(C=C(C=C2)Cl)C1)=O | C10H9ClN2O2
reactant | acetonitrile | 7.5 mL | C(C)#N | C2H3N
reactant | piperidine | 0.395 mL, 4 eq. | N1CCCCC1 | C5H11N
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 3-(6-Chloro-imidazo[1,2-a]pyridin-2-yl)-7-[4-(2-fluoro-ethyl)-piperazin-1-yl]-chromen-2-one | 100 mg, 23% | ClC=1C=CC=2N(C1)C=C(N2)C=2C(OC1=CC(=CC=C1C2)N2CCN(CC2)CCF)=O | C22H20ClFN4O2
